US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3,5-difluorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3,5-difluorophenylboronic acid (136 mg, 0.86 mmol) the subtitle compound was obtained, (120 mg, 64%). 1H NMR (DMSO) δ 8.70(d, 1H), 8.52(dd, 1H), 8.26(d, 1H), 7.96(d, 1H), 7.88(dd, 1H), 7.69(d, 1H), 7.61(dd, 2H), 7.33(tt, 1H), 4.12(s, 3H). MS 383 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3,5-difluorophenylboronic acid | 0.86 mmol, 136 mg | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3,5-difluorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC(=C2)F)F | C20H12F2N2O4
